US07820683B2
4N Hydrogen chloride in dioxane (9.6 ml, 38.4 mmol) was added to a mixture of 1-(pyridin-2-ylmethyl)-1H-indazol-5-amine (8.78 g, 39.2 mmol) and 4-chloro-5-fluoroquinazoline (7 g, 38.4 mmol; prepared as described in WO 2001/094341) in acetonitrile (100 ml). The mixture was stirred at 75° C. for 1.5 hours. After cooling, the mixture was evaporated to dryness. The residue was diluted in 6N methanolic ammonia. The mixture was evaporated to dryness and was diluted in DCM. After filtration of the solids, the filtrate was evaporated to dryness. The residue was purified by chromatography on silica gel (eluant: methanol in DCM) to give 5-fluoro-N-[1-(pyridin-2-ylmethyl)-1H-indazol-5-yl]quinazolin-4-amine as a beige solid (10.2 g, 72%); NMR spectrum (CDCl3) 5.76 (s, 2H), 6.89 (d, 1H), 7.22-7.18 (m, 2H), 7.58-7.45 (m, 3H), 7.72 (m, 2H), 8.11 (s, 1H), 8.21 (s, 1H), 8.47 (m, 1H), 8.60 (d, 1H), 8.68 (s, 1H); Mass spectrum MH+ 371.

reactant | Hydrogen chloride | 4N | Cl | ClH
reactant | dioxane | 38.4 mmol, 9.6 ml | O1CCOCC1 | C4H8O2
reactant | 1-(pyridin-2-ylmethyl)-1H-indazol-5-amine | 39.2 mmol, 8.78 g | N1=C(C=CC=C1)CN1N=CC2=CC(=CC=C12)N | C13H12N4
reactant | 4-chloro-5-fluoroquinazoline | 38.4 mmol, 7 g | ClC1=NC=NC2=CC=CC(=C12)F | C8H4ClFN2
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 5-fluoro-N-[1-(pyridin-2-ylmethyl)-1H-indazol-5-yl]quinazolin-4-amine | 10.2 g, 72% | FC1=C2C(=NC=NC2=CC=C1)NC=1C=C2C=NN(C2=CC1)CC1=NC=CC=C1 | C21H15FN6
